US05610144
The operation is carried out in a fashion similar to that described in Example 77, but starting from 0.68 g of methyl (2R,4R)-3-{3-{2-[4-tert-butoxycarbonyl-2-(2,3-difluorophenyl)-3-thiazolidinyl]-2-oxoethyl}ureido}phenylacetate in 6 cm3 of a water/methanol (30/70 by volume) mixture and 0.08 g of potassium hydroxide. The crude product (0.45 g) is dissolved in 7.5 cm3 of 0.1N aqueous sodium hydroxide solution. The solution thus obtained is washed with 2 times 10 cm3 of diethyl ether, brought to a pH of 2 by addition of a 1N aqueous sulphuric acid solution, then extracted with 2 times 20 cm3 of ethyl acetate. The organic phases are combined, dried over magnesium sulphate and concentrated to dryness under reduced pressure at 40° C. The product obtained is purified by chromatography on silica [eluent:methylene chloride/methanol (80/20 by volume)]. The fractions containing the expected product are combined and concentrated to dryness under reduced pressure at 40° C. 0.05 g of (2R,4R)-3-{3-{2-[4-tert-Butoxycarbonyl-2-(2,3-difluorophenyl)-3-thiazolidinyl]-2-oxoethyl}ureido}phenylacetic acid is thus obtained in the form of an amorphous product.

reactant | methyl (2R,4R)-3-{3-{2-[4-tert-butoxycarbonyl-2-(2,3-difluorophenyl)-3-thiazolidinyl]-2-oxoethyl}ureido}phenylacetate | 0.68 g | C(C)(C)(C)OC(=O)[C@H]1N([C@H](SC1)C1=C(C(=CC=C1)F)F)C(CNC(NC=1C=C(C=CC1)CC(=O)OC)=O)=O | C26H29F2N3O6S
reactant | potassium hydroxide | 0.08 g | [OH-].[K+]
solvent | water methanol | 6 cm3 | O.CO
solvent | sodium hydroxide | 0.1N, 7.5 cm3 | [OH-].[Na+]
product | (2R,4R)-3-{3-{2-[4-tert-Butoxycarbonyl-2-(2,3-difluorophenyl)-3-thiazolidinyl]-2-oxoethyl}ureido}phenylacetic acid | 0.05 g | C(C)(C)(C)OC(=O)[C@H]1N([C@H](SC1)C1=C(C(=CC=C1)F)F)C(CNC(NC=1C=C(C=CC1)CC(=O)O)=O)=O | C25H27F2N3O6S
